US07402581B2
8-[1-(Diphenylmethyl)azetidin-3-yl]-1,4-dioxa-8-azaspiro[4.5]decane (0.5 g, 1.4 mmol) was dissolved in dry CH2Cl2 under nitrogen and to the resultant solution was added 1-chloroethyl chloroformate (0.45 mL, 4.1 mmol) at 0° C. The mixture was stirred for 1.5 h and then methanol was added. The solution was heated to reflux for 20 min and then the solvent was removed by evaporation. The residue was triturated with acetone and the precipitate was then recrystallised from isopropyl alcohol. There was obtained 235 mg (73%) of 8-azetidin-3-yl-1,4-dioxa-8-azaspiro[4.5]decane hydrochloride as a solid. LCMS: m/z 199 (M+1)+.

reactant | 8-[1-(Diphenylmethyl)azetidin-3-yl]-1,4-dioxa-8-azaspiro[4.5]decane | 1.4 mmol, 0.5 g | C1(=CC=CC=C1)C(N1CC(C1)N1CCC2(OCCO2)CC1)C1=CC=CC=C1 | C23H28N2O2
reactant | 1-chloroethyl chloroformate | 4.1 mmol, 0.45 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | methanol | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-azetidin-3-yl-1,4-dioxa-8-azaspiro[4.5]decane hydrochloride | 235 mg, 73% | Cl.N1CC(C1)N1CCC2(OCCO2)CC1 | InChI=1S/C10H18N2O2.ClH/c1-3-12(9-7-11-8-9)4-2-10(1)13-5-6-14-10;/h9,11H,1-8H2;1H
